US08017782B2
(b). 4-[3-Bromo-4-(4-bromo-but-2-enyloxy)-5-ethoxy-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A mixture of 4-(3-bromo-5-ethoxy-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile (3.04 g), 1,4-dibromobutene (11.68 g) and potassium carbonate (1.887 g) in dioxane (100 ml) was stirred at 80° C. for 5 h. The mixture was poured into water and extracted with dichloromethane. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in acetonitrile, washed with petroleum ether and heptane to remove most of the excess of dibromobutene. The acetonitrile layer was concentrated in vacuo and the residue recrystallized from dichloromethane and heptane. Yield: 3.02 g. MS-ESI: [M+H]+=579.2

reactant | 4-(3-bromo-5-ethoxy-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | 3.04 g | BrC=1C=C(C=C(C1O)OCC)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C22H25BrN2O3
reactant | 1,4-dibromobutene | 11.68 g | BrC=CCCBr | C4H6Br2
reactant | potassium carbonate | 1.887 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-[3-Bromo-4-(4-bromo-but-2-enyloxy)-5-ethoxy-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | BrC=1C=C(C=C(C1OCC=CCBr)OCC)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C26H30Br2N2O3
